US09371327B2
Step 5: 5-chloro-1-isobutyl-3-methyl-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione
Crude 5-chloro-1-isobutyl-6-(4-methoxybenzyl)-3-methyl-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione (2.5 g) is dissolved in 5 mL of methylene chloride containing TFA (2 mL) and TFMSA (1.6 mL). The reaction mixture is stirred at room temperature overnight. After routine workup, the obtained crude product is purified by column chromatography to give 730 mg of product as gray solids. MS (ESI) m/z 256.1 [M+H]+.

reactant | 5-chloro-1-isobutyl-6-(4-methoxybenzyl)-3-methyl-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione | 2.5 g | ClC=1N(C=C2N(C(N(C(C21)=O)C)=O)CC(C)C)CC2=CC=C(C=C2)OC | C19H22ClN3O3
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | TFMSA | 1.6 mL | C(F)(F)(F)S(=O)(=O)O | CHF3O3S
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | 5-chloro-1-isobutyl-3-methyl-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione | 730 mg | ClC=1NC=C2N(C(N(C(C21)=O)C)=O)CC(C)C | C11H14ClN3O2
